US06359134B1
1-(4-Diethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride
To 1-(4-diethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine (320 mg) was added 4 N hydrochloric acid in ethyl acetate solution (5 ml), and the precipitated hydrochlorides were filtered to give the title compound (268 mg).

reactant | 1-(4-diethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine | 320 mg | C(C)N(CC)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | C26H31N3O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Diethylaminomethylbenzoyl)-4-(2-naphthalenesulfonyl)piperazine hydrochloride | 268 mg | Cl.C(C)N(CC)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C26H31N3O3S.ClH/c1-3-27(4-2)20-21-9-11-23(12-10-21)26(30)28-15-17-29(18-16-28)33(31,32)25-14-13-22-7-5-6-8-24(22)19-25;/h5-14,19H,3-4,15-18,20H2,1-2H3;1H
